US07576115B2
Synthesis of 4-[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]benzoic acid
Methyl 4-[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]benzoate (50 mg, 0.11 mmol) synthesized in Synthetic Example 35 was dissolved in methanol (1.1 mL) and stirred with 1 M aqueous sodium hydroxide (0.55 mL, 0.55 mmol) at 45° C. for 1.5 hours. After the stirring, 1 M hydrochloric acid (0.55 mL, 0.55 mmol) was added, and the precipitated pale yellow solid was recovered by filtration. The resulting solid was purified by silica gel chromatography (chloroform:methanol=9:1). The resulting solid was stirred with chloroform at room temperature and recovered by filtration to give the desired product as a pale yellow solid (11 mg, yield 23%).

reactant | Methyl 4-[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]benzoate | 0.11 mmol, 50 mg | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(=CS1)C(C)=NNC(=O)C1=CC=C(C(=O)OC)C=C1)O | C25H26N2O4S
reactant | sodium hydroxide | 0.55 mmol, 1 M, 0.55 mL | [OH-].[Na+]
reactant | hydrochloric acid | 0.55 mmol, 1 M, 0.55 mL | Cl | ClH
solvent | methanol | 1.1 mL | CO | CH4O
product | 4-[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]benzoic acid | 11 mg, yield 23% | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(=CS1)C(C)=NNC(=O)C1=CC=C(C(=O)O)C=C1)O | C24H24N2O4S
